US08957066B2
(E)-methyl 3-(1-methyl-1H-pyrazol-4-yl)acrylate (0.24 g, 1.45 mmol) was dissolved in MeOH (10 mL). A 1M solution of KOH (5.8 mL) was added and the mixture was heated at 70° C. overnight. The reaction mixture was then evaporated under reduced pressure and water (10 mL) was added to the residue. This solution was carefully acidified to pH 4 with a 3M aqueous solution of HCl. The carboxylic acid precipitated and was extracted with ethyl acetate. The EtOAc layer was washed with water (2×10 mL) and brine (1×15 mL). It was dried over sodium sulfate, filtered and evaporated under vacuum to give (E)-3-(1-methyl-1H-pyrazol-4-yl)acrylic acid as a white solid (160 mg). ES+(M+H)+153

reactant | (E)-methyl 3-(1-methyl-1H-pyrazol-4-yl)acrylate | 1.45 mmol, 0.24 g | CN1N=CC(=C1)/C=C/C(=O)OC | C8H10N2O2
reactant | KOH | 5.8 mL | [OH-].[K+]
solvent | MeOH | 10 mL | CO | CH4O
product | (E)-3-(1-methyl-1H-pyrazol-4-yl)acrylic acid | 160 mg | CN1N=CC(=C1)/C=C/C(=O)O | C7H8N2O2
